US07781463B2
4-(Ethoxycarbonylmethyl)-2-isopropyl-1,2,4-thiadiazolidine-3,5-dione (Compound 46)
Reagents: Ethyl isothiocyanatoacetate (0.8 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), isopropyl isocyanate (0.64 ml, 6.5 mmol).

reactant | Ethyl isothiocyanatoacetate | 6.5 mmol, 0.8 ml | N(=C=S)CC(=O)OCC | C5H7NO2S
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | isopropyl isocyanate | 6.5 mmol, 0.64 ml | C(C)(C)N=C=O | C4H7NO
product | 4-(Ethoxycarbonylmethyl)-2-isopropyl-1,2,4-thiadiazolidine-3,5-dione | C(C)OC(=O)CN1C(N(SC1=O)C(C)C)=O | C9H14N2O4S
